US03959309
The 2,4-difluorophenylhydrazine hydrochloride (m.p. 244°-246°C.) was prepared from 2,4-difluoroaniline hydrochloride using a procedure similar to that described in Example 5 for the preparation of 4-benzoyloxyphenylhydrazine hydrochloride.

reactant | 2,4-difluoroaniline hydrochloride | Cl.FC1=C(N)C=CC(=C1)F
reactant | 4-benzoyloxyphenylhydrazine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)NN
product | 2,4-difluorophenylhydrazine hydrochloride | Cl.FC1=C(C=CC(=C1)F)NN | InChI=1S/C6H6F2N2.ClH/c7-4-1-2-6(10-9)5(8)3-4;/h1-3,10H,9H2;1H
